US06566366B1
b) 5-(1,3-Dimethyl-imidazolidin-2-yl)-thiophene-2-carboxylic Acid tert-Butyl Ester
7.28 g (40 mmol) of 1,3-dimethyl-2-(2-thienyl)-imidazolidine were dissolved in 50 ml of dry tetrahydrofuran. 5.12 g (40 mmol) of N,N,N′,N′-tetramethylethylenediamine were added and the solution was cooled to −70° C. Then 20 ml of a 2N solution of n-butyllithium in n-hexane were added dropwise at −70° C. After stirring for further 2 hours 8.72 g (40 mmol) of di-tert-butyl pyrocarbonate, dissolved in 10 ml of dry tetrahydrofuran, were slowly added at −70° C. and stirring was continued at that temperature for further 4 h. The mixture was then allowed to warm up to room temperature overnight. The solvents were destined off and the dark red residue was dissolved in a mixture of 150 ml diethylether and 150 ml of ethyl acetate. The solution obtained was washed twice with ice water and then with brine. After drying with anhydrous magnesium sulfate and filtration, the solvents were destined off to give a dark yellow oil. The product obtained was used in the next step without further purification. Yield: 8 g.

reactant | 1,3-dimethyl-2-(2-thienyl)-imidazolidine | 40 mmol, 7.28 g | CN1C(N(CC1)C)C=1SC=CC1 | C9H14N2S
reactant | N,N,N′,N′-tetramethylethylenediamine | 40 mmol, 5.12 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | di-tert-butyl pyrocarbonate | 40 mmol, 8.72 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 5-(1,3-Dimethyl-imidazolidin-2-yl)-thiophene-2-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)C=1SC(=CC1)C1N(CCN1C)C | C14H22N2O2S
